US04226861
N-Methyl 3-(2-aminocarbonylphenoxy)-1-azetidinecarboxamide
To 8.0 g. (0.028 mole) of 2-(3-azetidinyloxy)benzamide stirring in 100 ml of dry benzene was added dropwise 1.6 g. (0.028 mole) of methylisocyanate with ice bath cooling. Stirring was continued at room temperature for 24 hours. The solid material was filtered and was recrystallized from 95% ethanol. The product (4.0 g., 57%) melted at 236°-240° C.

reactant | 2-(3-azetidinyloxy)benzamide | 0.028 mole | N1CC(C1)OC1=C(C(=O)N)C=CC=C1 | C10H12N2O2
reactant | methylisocyanate | 0.028 mole | CN=C=O | C2H3NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-Methyl 3-(2-aminocarbonylphenoxy)-1-azetidinecarboxamide | CNC(=O)N1CC(C1)OC1=C(C=CC=C1)C(=O)N | C12H15N3O3
